US07799810B2
Step 2: 3-Amino-N-(5-methyl-isoxazol-3-yl)-propionamide hydroiodide
To a stirred solution of [2-(5-methyl-isoxazol-3-ylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester (0.1 g, 0.37 mmol) in MeCN (3 ml) is added dropwise TMSI (0.11 ml, 0.74 mmol). After 30 minutes, MeOH (1 ml) is added to afford a yellow suspension which is collected by filtration and washed with EtOAc to afford the title compound. Further product is obtained by concentration of the filtrate.

reactant | [2-(5-methyl-isoxazol-3-ylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester | 0.37 mmol, 0.1 g | C(C)(C)(C)OC(NCCC(NC1=NOC(=C1)C)=O)=O | C12H19N3O4
reactant | TMSI | 0.74 mmol, 0.11 ml | [Si](C)(C)(C)I | C3H9ISi
reactant | MeOH | 1 ml | CO | CH4O
solvent | MeCN | 3 ml | CC#N | C2H3N
product | 3-Amino-N-(5-methyl-isoxazol-3-yl)-propionamide hydroiodide | I.NCCC(=O)NC1=NOC(=C1)C | InChI=1S/C7H11N3O2.HI/c1-5-4-6(10-12-5)9-7(11)2-3-8;/h4H,2-3,8H2,1H3,(H,9,10,11);1H
